US06479530B2
a) 2-(3-Benzyl-3H-imidazol-4-yl)4-phenylbutan-2-ol
1.0 g of magnesium turnings are covered with 5 ml of dry tetrahydrofuran. To the mixture is added 7.8 g of (2-bromoethyl)benzene in 30 ml of dry tetrahydrofuran at such a rate that a smooth reaction is maintained. The mixture is then heated under reflux for one hour. After being cooled to room temperature, 3.0 g of 1-(3-benzyl-3H-imidazol-4-yl)-ethanone in 20 ml of tetrahyrofuran is added dropwise to the Grignard reagent and the reaction mixture is refluxed for one hour. The cooled reaction mixture is poured into a cold dilute hydrochloric acid solution. Work-up of the mixture gives the crude product, which is recrystallized from ethyl acetate. The yield is 3.3 g.

reactant | magnesium | 1.0 g | [Mg] | Mg
reactant | (2-bromoethyl)benzene | 7.8 g | BrCCC1=CC=CC=C1 | C8H9Br
reactant | 1-(3-benzyl-3H-imidazol-4-yl)-ethanone | 3.0 g | C(C1=CC=CC=C1)N1C=NC=C1C(C)=O | C12H12N2O
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahyrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 2-(3-Benzyl-3H-imidazol-4-yl)4-phenylbutan-2-ol | C(C1=CC=CC=C1)N1C=NC=C1C(C)(CCC1=CC=CC=C1)O | C20H22N2O
